US05013863
A solution of 6.7 g of 3-(benzyloxycarbonylamino)propyl(n-butyl)phosphinic acid in 125 ml of 36 % hydrochloric acid is heated at reflux for 1.5 hour. The mixture is evaporated to an oil and the oil is co-evaporated with water (2×50 ml) to give a white solid. This solid is then dissolved in 50 ml of dry methanol, 1-3 ml of propylene oxide is added and the solution is stirred at room temperature. The precipitated product is collected by filtration and dried to give 3-aminopropyl(n-butyl)phosphinic acid, m.p. 231-234° (dec.), 31P-NMR : δ=+44.6 ppm (D2O).

reactant | 3-(benzyloxycarbonylamino)propyl(n-butyl)phosphinic acid | 6.7 g | C(C1=CC=CC=C1)OC(=O)NCCCP(O)(=O)CCCC | C15H24NO4P
reactant | propylene oxide | 1-3 ml | C1C(C)O1 | C3H6O
solvent | hydrochloric acid | 125 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 3-aminopropyl(n-butyl)phosphinic acid | NCCCP(O)(=O)CCCC | C7H18NO2P
